US06713508B2
Step A: Allyl 4-(2,2,2-trifluoroethoxy)phenyl ether
To a DMF 30 ml solution of 4-(2,2,2-trifluoroethoxy)phenol (2.6 g, 13.6 mmol) and allyl bromide (3.53 ml, 40.8 mmol) was added cesium carbonate (4.85 g, 14.9 mmol). This suspension was heated to 60° C. for 18 hr, diluted with AcOEt and water. The organic layer was separated, and the aqueous layer was extracted twice with AcOEt. The combined organic layers were dried over anhydrous Na2SO4, filtered, concentrated, and chromatographed on silica gel eluting with 10% AcOEt/hexanes to give the title compound.

reactant | DMF | 30 ml | CN(C)C=O | C3H7NO
reactant | 4-(2,2,2-trifluoroethoxy)phenol | 13.6 mmol, 2.6 g | FC(COC1=CC=C(C=C1)O)(F)F | C8H7F3O2
reactant | allyl bromide | 40.8 mmol, 3.53 ml | C(C=C)Br | C3H5Br
reactant | cesium carbonate | 14.9 mmol, 4.85 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | AcOEt | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
product | Allyl 4-(2,2,2-trifluoroethoxy)phenyl ether | FC(COC1=CC=C(C=C1)OCC=C)(F)F | C11H11F3O2
